US06544980B2
3.2 Synthesis of 2-(4-(2-(p-methoxybenzylthio)-6-phthalimidohexanoyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-4-methyl-valeric acid t-butyl ester
Combine p-methoxybenzylmercaptan (0.08 mL, 0.57 mmol) and-sodium hydride (17 mg, 60% oil dispersion, 0.42 mmol) in degassed dimethylformamide (3 mL). After 1 hour, tetra-n-butylammonium iodide (about 5 mg) and 2-(4-(2-bromo-6-phthalimidohexanoyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-4-methyl-valeric acid t-butyl ester (0.27 mmol). After 20 hours, quench be the addition of a saturated aqueous ammonium chloride solution and dilute with water (about 5 mL). Extract with ethyl acetate (about 75 mL). Separate the layers and extract the orgainc layer with brine, dry over Na2SO4, filter, and evaporate in vacuo to give the title compound.

reactant | p-methoxybenzylmercaptan | 0.57 mmol, 0.08 mL | COC1=CC=C(CS)C=C1 | C8H10OS
reactant | sodium hydride | 0.42 mmol, 17 mg | [H-].[Na+]
reactant | 2-(4-(2-bromo-6-phthalimidohexanoyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-4-methyl-valeric acid t-butyl ester | 0.27 mmol | C(C)(C)(C)OC(C(CC(C)C)N1CC2=C(CC(C1=O)NC(C(CCCCN1C(C=3C(C1=O)=CC=CC3)=O)Br)=O)C=CC=C2)=O | C34H42BrN3O6
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | tetra-n-butylammonium iodide | about 5 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(4-(2-(p-methoxybenzylthio)-6-phthalimidohexanoyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-4-methyl-valeric acid t-butyl ester | C(C)(C)(C)OC(C(CC(C)C)N1CC2=C(CC(C1=O)NC(C(CCCCN1C(C=3C(C1=O)=CC=CC3)=O)SCC3=CC=C(C=C3)OC)=O)C=CC=C2)=O | C42H51N3O7S
